US07825244B2
4-Piperidin-4-yl-7-(tetrahydro-pyran-4-ylmethoxy)-quinazoline
A mixture of (tetrahydro-pyran-4-yl)-methanol (0.2 mmol), KOtBu (0.2 mmol) and 4-(7-fluoro-quinazolin-4-yl)-piperidine-1-carboxylic acid tert-butyl ester (0.1 mmol), prepared as described in Example 12b, in DMSO (1 mL), was stirred at 80° C. for 1 h. It was then diluted with water and extracted with DCM. The combined extracts were washed with water, brine, dried with MgSO4, filtered, and concentrated in vacuo. The crude product was then treated with 3M HCl/MeOH (2 mL) and stirred at rt for 2 h and then concentrated in vacuo.

reactant | (tetrahydro-pyran-4-yl)-methanol | 0.2 mmol | O1CCC(CC1)CO | C6H12O2
reactant | KOtBu | 0.2 mmol | CC(C)(C)[O-].[K+]
reactant | 4-(7-fluoro-quinazolin-4-yl)-piperidine-1-carboxylic acid tert-butyl ester | 0.1 mmol | C(C)(C)(C)OC(=O)N1CCC(CC1)C1=NC=NC2=CC(=CC=C12)F | C18H22FN3O2
solvent | DMSO | 1 mL | CS(=O)C | C2H6OS
solvent | water | O | H2O
product | 4-Piperidin-4-yl-7-(tetrahydro-pyran-4-ylmethoxy)-quinazoline | N1CCC(CC1)C1=NC=NC2=CC(=CC=C12)OCC1CCOCC1 | C19H25N3O2
